US07241789B2
b) 6-Methyl-4H-pyrido[3,2-b][1,4]oxazin-3-one L. Savelon, et. al, Bioorganic & Medicinal Chemistry, 6, 133, (1998).
To a suspension of 2-amino-6-methyl-pyridin-3-ol (18.3 g, 148 mmol), sodium bicarbonate (30 g, 354 mmol), H2O (100 mL), and 2-butanone (100 mL) in an ice-water bath was added a solution of chloroacetyl chloride (13.3 mL. 167 mmol) in 2-butanone (30 mL) over 1.5 h, controlling the temperature below 10 ° C. After the addition was complete, the ice-water bath was removed and the mixture was stirred at ambient temperature for 30 minutes, followed by refluxing for 1.5 h. The solvents were evaporated, and the resulting solid was washed with H2O (3 times), and dried under high vacuum overnight, giving the title compound (19.2 g, 79% yield) as a pale yellow solid. 1H NMR (CDCl3) δ 10.45 (bs, 1H), 7.17 (d, 1H, J=8.1 Hz), 6.78 (d, 1H, J=8.1 Hz), 4.62 (s, 2H), 2.52 (s, 3H). Mass spectrum (LCMS, ESI) calculated for C8H9N2O2 165.1 (M+1); found 165.1.

reactant | 2-amino-6-methyl-pyridin-3-ol | 148 mmol, 18.3 g | NC1=NC(=CC=C1O)C | C6H8N2O
reactant | sodium bicarbonate | 354 mmol, 30 g | C([O-])(O)=O.[Na+]
reactant | H2O | 100 mL | O | H2O
reactant | chloroacetyl chloride | 167 mmol, 13.3 mL | ClCC(=O)Cl | C2H2Cl2O
solvent | 2-butanone | 30 mL | CC(CC)=O | C4H8O
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | 6-Methyl-4H-pyrido[3,2-b][1,4]oxazin-3-one | 19.2 g, 79% yield | CC=1C=CC=2OCC(NC2N1)=O | C8H8N2O2
